US08030337B2
N-{2-[2-(Trifluoromethyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-2,2,2-trifluoroacetamide (27.8 mg, 0.0842 mmol) and pyridinium p-toluenesulfonate (4.2 mg, 0.0168 mmol) were heated under reflux in xylene (1 mL) for 5 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (17.2 mg, yield 65%).

reactant | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}-2,2,2-trifluoroacetamide | 0.0842 mmol, 27.8 mg | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(C(F)(F)F)=O | C15H17F3N2O3
reactant | pyridinium p-toluenesulfonate | 0.0168 mmol, 4.2 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 1 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-{2-[2-(Trifluoromethyl)-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl]ethyl}acetamide | 17.2 mg, yield 65% | FC(C=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O)(F)F | C15H15F3N2O2
